US05721347
A) 5-(ρ-nitrobenzoyl)-1-methylpyrrole-2-acetonitrile
A solution of 46.4 g. (0.25 mole) of ρ-nitrobenzoyl chloride in 100 ml. 1,2-dichloroethane is added portionwise to a suspension of 32.2 g. (0.25 mole) aluminum chloride in 100 ml. 1,2-dichloroethane. This mixture is added dropwise to a chilled solution of 30.0 g. (0.25 mole) 1-methylpyrrole-2-acetonitrile in 100 ml. 1,2-dichloroethane. After the addition is complete, the mixture is stirred for twenty minutes at room temperature, and then refluxed for four times. It is poured into ice acidified with 3N hydrochloric acid. The organic phase is separated and washed successively with N, N-dimethyl-1,3-propanediamine, 3N hydrochloric acid and saturated sodium chloride solution. It is then dried over magnesium sulfate and the solvent evaporated in vacuo. The resulting semi-solid residue is triturated with cold methanol from which the product, 5-(ρ-nitrobenzoyl)-1-methylpyrrole-2-acetonitrile, crystallizes. It is removed by filtration and purified by recrystallization from acetone, M.P. 167°-169° C.

reactant | ρ-nitrobenzoyl chloride | 0.25 mole | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | aluminum chloride | 0.25 mole | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1-methylpyrrole-2-acetonitrile | 0.25 mole | CN1C(=CC=C1)CC#N | C7H8N2
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 5-(ρ-nitrobenzoyl)-1-methylpyrrole-2-acetonitrile | [N+](=O)([O-])C1=CC=C(C(=O)C2=CC=C(N2C)CC#N)C=C1 | C14H11N3O3
